US04380546
(b) Preparation of the end product 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-8-phenoxy-octan-3-one
A solution of 14.3 g of 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-butan-3-one (cf. German Laid-Open Application DOS No. 2,638,470) in 20 ml of DMF is added dropwise, under a dry nitrogen atmosphere, to a stirred suspension of 2.3 g of sodium hydride in 20 ml of dimethylformamide (DMF), the reaction temperature being kept at 20°-30° C. by cooling; the mixture is subsequently stirred for 20 hours at room temperature. A solution of 19.5 g of 1-bromo-4-phenoxybutane in 20 ml of DMF is then added dropwise at 5°-10° C., with continued stirring, and whilst cooling with ice. After completion of the addition, stirring is continued for 10 hours at 5°-10° C., after which 200 ml of water are added and the mixture is extracted twice with 100 ml of methylene chloride at a time. The combined organic phases are extracted by shaking with water and dried over magnesium sulfate; removal of the solvent under reduced pressure gives an oil from which, on trituration with 20 ml of diisopropyl ether, 17 g of colorless crystals precipitate; melting point 59°-62° C.

reactant | 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-butan-3-one | 14.3 g | CC(C)(C(CN1N=CN=C1)=O)C | C8H13N3O
reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | 1-bromo-4-phenoxybutane | 19.5 g | BrCCCCOC1=CC=CC=C1 | C10H13BrO
reactant | diisopropyl ether | 20 ml | C(C)(C)OC(C)C | C6H14O
solvent | DMF | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | DMF | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-8-phenoxy-octan-3-one | CC(C)(C(C(CCCCOC1=CC=CC=C1)N1N=CN=C1)=O)C | C18H25N3O2
